US05006159
2-Propionyl-3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one
A well stirred slurry of 54 g (0.15 mol) of 3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one in 500 mL of chloroform was treated sequentially with 24 g (0.18 mol) of propionic anhydride, 23 g (0.29 mol) of pyridine and 3.0 g (0.025 mol) of 4-dimethylaminopyridine. The resulting solution was heated at 70° C. for 10 hours. The solution was then cooled to about room temperature and washed twice with 400 mL portions of treated with 50 mL of 1N HCl then with 400 mL of an aqueous saturated sodium chloride solution, dried over MgSO4, filtered and the solvent evaporated off to leave a yellow oil which crystallized on standing. Recrystallization from absolute ethanol gave the above named product as a light yellow crystalline solid in a yield of 57 g (90 percent of theoretical). The product melted at 106°-109° C.; 1H NMR (CDCl3): δ0.92-1.25 (m, 6H, CH3 's), 2.67-3.22 (m including q at 3.08, 4H, --CH2CH3 and ring CH2), 3.55-3.80 (m, 2H, ring --CH--CH--), 4.05 (q, 2H, CO2CH2 --), 5.02 (s, 2H, ArCH2O--), 6.82-7.50 (m, 9H, ArH's), 8.18 (br, s, 1H, enol H).

reactant | 3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one | 0.15 mol, 54 g | OC1=CC(CC(C1C(=O)OCC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H22O5
reactant | propionic anhydride | 0.18 mol, 24 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 0.29 mol, 23 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.025 mol, 3.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Propionyl-3-hydroxy-5-(4-benzyloxyphenyl)-4-(carboethoxy)cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(C(C1O)C(=O)OCC)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H26O6
